* C:\Users\vinhp\OneDrive\Desktop\Electric\LAB_FINAL\LAB1_NMOS.asc
* Generated by LTspice 24.1.9 for Windows.
M1 N001 N002 0 N003 NMOS l=20u w=100u
Vgs N002 0 0
Vdd N001 0 5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\vinhp\AppData\Local\LTspice\lib\cmp\standard.mos
.dc Vgs 0 5 0.1
.backanno
.end
