*** SPICE deck for cell PMOS_sch{sch} from library PMOS
*** Created on Thu May 29, 2025 20:47:12
*** Last revised on Thu May 29, 2025 21:44:48
*** Written on Thu May 29, 2025 22:17:26 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF
*CMOS/BULK-NWELL (PRELIMINARY PARAMETERS)
.OPTIONS NOMOD DEFL=3UM DEFW=3UM DEFAD=70P DEFAS=70P LIMPTS=1000
+ITL5=0 RELTOL=0.01 ABSTOL=500PA VNTOL=500UV LVLTIM=2
+LVLCOD=1
.MODEL N NMOS LEVEL=1
+KP=60E-6 VTO=0.7 GAMMA=0.3 LAMBDA=0.05 PHI=0.6
+LD=0.4E-6 TOX=40E-9 CGSO=2.0E-10 CGDO=2.0E-10 CJ=.2MF/M^2
.MODEL P PMOS LEVEL=1
+KP=20E-6 VTO=0.7 GAMMA=0.4 LAMBDA=0.05 PHI=0.6
+LD=0.6E-6 TOX=40E-9 CGSO=3.0E-10 CGDO=3.0E-10 CJ=.2MF/M^2
.MODEL DIFFCAP D CJO=.2MF/M^2
*** WARNING: no power connection for P-transistor wells in cell 'PMOS_sch{sch}'

*** TOP LEVEL CELL: PMOS_sch{sch}
Mpmos-4@3 d g s b MOSP L=0.36U W=0.36U

* Spice Code nodes in cell cell 'PMOS_sch{sch}'
Vs s gnd 0
Vg g gnd 0
Vb b gnd 5
Vd d gnd 0
.dc Vs 0 -5 -1m Vg 0 -5 -1 
.include D:\Downloads\Dowloads electric VLSI\Electric\Library\C5_models.txt
.END
